US07338959B2
Morpholine (2.2 ml, 25 mmol) was slowly added to 3-Nitro-benzenesulfonyl chloride (5.5 g, 25 mmol) in CH2Cl2 at 0° C. The reaction was warmed up to rt in 0.5 h. After CH2Cl2 was removed in vacuo, saturated NaHCO3 solution was added and the solid was filtered and dried to give 4-(3-Nitro-benzenesulfonyl)-morpholine as an off white solid (5.9 g, 87%). MS (ESI) m/z=273 [M+H]+.

reactant | Morpholine | 25 mmol, 2.2 ml | N1CCOCC1 | C4H9NO
reactant | 3-Nitro-benzenesulfonyl chloride | 25 mmol, 5.5 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3-Nitro-benzenesulfonyl)-morpholine | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)N1CCOCC1 | C10H12N2O5S
